US07700595B2
8-Chloro-4-(3-{[3-(morpholin-4-ylcarbonyl)benzyl]oxy}phenyl)-3-phenylcinnoline
A solution of trimethylaluminum (2 M solution in dichloromethane, 0.5 M) was added to a solution of morpholine (0.1 g) in 5 mL of toluene at room temperature. After 30 minutes 3-[3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenoxymethyl]-benzoic acid methyl ester (50 mg) in 2 mL of toluene was added and the solution was heated to 60° C. for 15 hours. The reaction mixture was cooled to room temperature, quenched with diluted HCl and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4), and concentrated in vacuo. The residue was purified by semi-preparative HPLC. MS (ES) m/z 536.2.

reactant | trimethylaluminum | 2 M | C[Al](C)C
reactant | morpholine | 0.1 g | N1CCOCC1 | C4H9NO
reactant | 3-[3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenoxymethyl]-benzoic acid methyl ester | 50 mg | COC(C1=CC(=CC=C1)COC1=CC(=CC=C1)C1=C(N=NC2=C(C=CC=C12)Cl)C1=CC=CC=C1)=O | C29H21ClN2O3
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 8-Chloro-4-(3-{[3-(morpholin-4-ylcarbonyl)benzyl]oxy}phenyl)-3-phenylcinnoline | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C1=CC(=CC=C1)OCC1=CC(=CC=C1)C(=O)N1CCOCC1 | C32H26ClN3O3
